US05216015
Step 11: Preparation of 12α-(2,2-dimethyl)butyryloxy-3α-tert-butyldimethylsilyloxy-5β-androstan-17-one
3α-tert-butyldimethylsilyloxy-12α-hydroxy-5β-androstan-17-one (5.9 g), 4-pyrrolidinopyridine (0.30 g) and 2,2-dimethylbutyryl chloride (6 ml) are dissolved in pyridine (30 ml) and the solution warmed to 85° C., stirred at that temperature for about 3 hours, cooled, diluted with ether and washed with water, then 0.5M hydrochloric acid. The organic solution is dried over magnesium sulfate, filtered and concentrated in vacuo. The crude product is purified by flash chromatography in a gradient of 20% to 30% ether in hexane to give the desired product.

reactant | 3α-tert-butyldimethylsilyloxy-12α-hydroxy-5β-androstan-17-one | 5.9 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@H]2CC[C@H]3[C@@H]4CCC([C@@]4(C)[C@H](C[C@@H]3[C@]2(CC1)C)O)=O | C25H44O3Si
reactant | 4-pyrrolidinopyridine | 0.30 g | N1(CCCC1)C1=CC=NC=C1 | C9H12N2
reactant | 2,2-dimethylbutyryl chloride | 6 ml | CC(C(=O)Cl)(CC)C | C6H11ClO
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
solvent | ether | CCOCC | C4H10O
product | 12α-(2,2-dimethyl)butyryloxy-3α-tert-butyldimethylsilyloxy-5β-androstan-17-one | CC(C(=O)O[C@H]1C[C@@H]2[C@]3(CC[C@H](C[C@H]3CC[C@H]2[C@@H]2CCC([C@]21C)=O)O[Si](C)(C)C(C)(C)C)C)(CC)C | C31H54O4Si
